US04746356
5-Methoxy-1,2,3-benzothiadiazole-4-sulfonyl chloride
To a stirred solution of 50 mL of chlorosulfonic acid at 0° C. was added 4.15 g of 5-methoxy-1,2,3-benzothiadiazole under an inert atmosphere. The resulting mixture was heated at reflux for 30 minutes. After cooling to room temperature, the reaction mixture was added to 600 mL ice-water mixture. The precipitate was collected, washed with water and ether, and air dried to give 5.6 g of the title compound as a white solid, m.p. 131°-134° C.

reactant | chlorosulfonic acid | 50 mL | ClS(=O)(=O)O | ClHO3S
reactant | 5-methoxy-1,2,3-benzothiadiazole | 4.15 g | COC=1C=CC2=C(N=NS2)C1 | C7H6N2OS
product | 5-Methoxy-1,2,3-benzothiadiazole-4-sulfonyl chloride | 5.6 g | COC1=CC=C2C(N=NS2)=C1S(=O)(=O)Cl | C7H5ClN2O3S2
